US06204406B1
The cyclic dipeptide, cyclo-(Leu-His) is a known substance [F. Schneider, Hoppe-Seyler's Z. Phys. Chem. 338, 131 (1964)], which can be prepared according to the usual peptide synthesis. For example, condensation between N-benzyloxycarbonyl-(S)-leucine and methyl ester of (S)-histidine in the presence of isobutyl chloroformate is effected in accordance with the mixed acid anhydride process to obtain methyl ester of N-benzyloxycarbonyl-(S)-leucyl-(S)-histidine and then the ester is hydrogenolyzed in the presence of palladium-carbon, followed by cyclization under reflux in methanol.

reactant | cyclo-(Leu-His) | N1[C@@H](CC(C)C)C(=O)N[C@@H](CC2=CNC=N2)C1=O | C12H18N4O2
reactant | N-benzyloxycarbonyl-(S)-leucine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | (S)-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | N-benzyloxycarbonyl-(S)-leucyl-(S)-histidine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C20H26N4O5
